US04239644
To a mixture of 76 g (0.5 mole) of cumene hydroperoxide, 75 g (0.5 mole) of α,α-dimethyl-m-tolylcarbinol and 15 g of cumene was added 2 g of synthetic silica-alumina, and reaction was carried out at 60° C. for 3 hours while blowing nitrogen, to obtain cumyl-m-cymylperoxide in a yield of 90%.

reactant | cumene hydroperoxide | 0.5 mole, 76 g | [O-]O.C1(=CC=CC=C1)C(C)C
reactant | α,α-dimethyl-m-tolylcarbinol | 0.5 mole, 75 g | CC(C1=CC(=CC=C1)CO)C | C10H14O
reactant | cumene | 15 g | C1(=CC=CC=C1)C(C)C | C9H12
product | cumyl-m-cymylperoxide | yield of 90% | C(C)(C)(C1=CC=CC=C1)OOC1=C(C=CC=C1C)C(C)C | C19H24O2
